Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([C:4]#[C:5][C:6]([H:7])[H:8])[O:9][H:10]>>[C:6]([H:7])[H:8].[H:1][O:2][C:3]([C:4]#[C:5])[O:9][H:10],6.714585381340001
[H:5].[O:1]=[C:2]([C:3][H:4])[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-5.22375774623
[H:1][C:2]#[C:3][C:4]([C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][C:2]#[C:3][C:4]([C:5]#[C:6][H:7])=[C:8]([H:9])[H:10],2.65680929699
[H:10].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.90523687194
[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-1.41406653636
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-5.38306042974
[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3],4.27535520085
[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])[H:4],5.22981207672
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[H:13].[H:9],4.4447570788
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:2]=[C:3]([H:4])[C:5]([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:1],3.90501091475
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4][O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:5],5.1184380125
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[H:3].[O:1]=[C:2]=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10],2.96839694505
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:11]([H:8])[H:12].[C:6]([H:7])#[C:9][H:10],1.4644221761899998
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6]/[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4]([H:5])#[C:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2][H:3],3.18839691715
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:5],4.1981985026
[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:2]([H:3])[O:4][C:5]#[C:6],5.41123579417
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[O:8][H:9]>>[C:1]#[C:2][C:5]([H:6])([H:7])[O:8][H:9].[O:3][H:4],4.88620689953
[H:1][O:2][C:3][C:10]([C:4][C:5]([H:6])([H:7])[O:8][H:9])([H:11])[H:12]>>[H:1][O:2][C:3]1=[C:4]([C:5]([H:6])([H:7])[O:8][H:9])[C:10]1([H:11])[H:12],-4.04157142773
[C:1]=[C:2]([H:3])[C:4]([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[C:2]1([H:3])=[C:4]([H:5])[C:6]1,3.0108548347000004
[C:1]=[C:2]1[O:3][C@:4]1([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C@@:4]([O:3])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],1.58941945586
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[C:4]([H:5])([H:6])=[C:7].[H:1][C:2]#[C:3][C:8]([H:9])[H:10],2.86798085879
[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-1.8379851949
[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3](=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:4],1.7617049580700002
[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[C:2](#[C:3][C:4][H:5])[C:6]([H:7])([H:8])[H:9].[O:1],7.36943979188
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:2][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:4][H:3],7.57304391887
[H:1]/[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])=[C:10](/[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17]>>[H:1][C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]1([H:11])[C:12]([H:13])([H:14])[C:15]1([H:16])[H:17],-0.0511960987505999
[C:1]=[C:2]([H:3])[H:4].[C:5]([O:6])#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:1][C:2]([H:3])([H:4])[C:5](=[O:6])[C:7][C:8]([H:9])([H:10])[H:11],1.4522611681200002
[H:10].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8][H:9]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-5.10975405963
